US06511995B1
Synthesis of 4-[(5-formyl-2-pyridinyl)oxy]-1-indanone
To a solution prepared by suspending 4.6 g of 4-[(5-cyano-2-pyridinyl)oxy]-1-indanone obtained in Reference Example 59 in 4.4 ml of water and 11 ml of formic acid, 2.6 g of raney nickel was added at 60° C.

reactant | 4-[(5-cyano-2-pyridinyl)oxy]-1-indanone | 4.6 g | C(#N)C=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C15H10N2O2
reactant | water | 4.4 ml | O | H2O
solvent | formic acid | 11 ml | C(=O)O | CH2O2
catalyst | raney nickel | 2.6 g | [Ni] | Ni
product | 4-[(5-formyl-2-pyridinyl)oxy]-1-indanone | C(=O)C=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C15H11NO3
